US07041696B2
Preparation of 5-allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-pyrrolidine-2-carboxylic acid methyl ester (6):
To a solution of 5-allyloxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride, 5, (17.82 g, 86.6 mmol) and triethylamine (36 mL, 260 mmol) in CH2Cl2 (500 mL), 2-tert-butoxycarbonylamino-pent-4-enoic acid (41.1 g, 191 mmol), 1,3-dicyclohexylcarbodiimide (46.4 g, 225 mmol), and 4-dimethylaminopyridine (21.1 g, 173 mmol) are added. Once consumption of the starting material is complete, the precipitate that forms is filtered from the reaction mixture. The CH2Cl2 is reduced in vacuo and residue which remains is diluted with ether (500 mL). A white precipitate forms which is collected by filtration. The solvent is then removed and the resulting residue dissolved in ethyl acetate (250 mL) then further diluted with hexanes (250 mL). A white precipitate again forms and is removed. The solution which remains is concentrate in vacuo and the residue purified over silica (hexanes/ethyl acetate 80:20) to afford 27.69 g (87% yield) of the desired product as a slightly yellow oil. 1H-NMR (300 MHz, CDCl3): δ 5.91–5.74 (m, 2H), 5.22–5.01 (m, 5H), 4.55–4.40 (m, 3H), 3.81–3.74 (m, 3H), 2.60–1.90 (m, 4H), 1.45 (s, 9H); 13C-NMR (75.5 MHz, CDCl3): δ 183.85, 172.92, 172.52, 171.69, 155.58, 135.05, 134.27, 133.45, 118.63, 117.43, 80.00, 60.00, 59.58, 58.47, 52.41, 52.41, 52.10, 51.20, 39.69, 38.09, 29.82, 28.54, 27.11; MS (ESI): m/e=367.21 (M+H).

reactant | 5-allyloxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1NC(CC1)OCC=C
reactant | triethylamine | 260 mmol, 36 mL | C(C)N(CC)CC | C6H15N
reactant | 2-tert-butoxycarbonylamino-pent-4-enoic acid | 191 mmol, 41.1 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=C | C10H17NO4
reactant | 1,3-dicyclohexylcarbodiimide | 225 mmol, 46.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 173 mmol, 21.1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-allyl-1-(2-tert-butoxycarbonylamino-pent-4-enoyl)-pyrrolidine-2-carboxylic acid methyl ester | 27.69 g, 87% yield | COC(=O)C1N(C(CC1)CC=C)C(C(CC=C)NC(=O)OC(C)(C)C)=O | C19H30N2O5
